US04806535
A solution of 3-(4-fluorobenzoyl)-4-carbomethoxypyridine (2.25 g, 8.68 mmol) in 10 mL of DMF is added dropwise to a solution of NaH (0.25 g, 10.21 mmol) and imidazole (0.59 g, 8.68 mmol) in 26 mL of DMF. The mixture, after heating at 120° C. for 1 day, is allowed to cool, quenched with ice water, and extracted with EtOAc (3×75 mL). The combined organic layers are dried (Na2SO4) and evaporated to produce crude product. Chromatographic purification on silica gel (using EtOAc-MeOH, 9:1 as the eluent) gives pure 3-[4-(1H-imidazol-1-yl)benzoyl]-4-carbomethoxypyridine as a light brown solid. M.P. 125°-128° C.

reactant | 3-(4-fluorobenzoyl)-4-carbomethoxypyridine | 8.68 mmol, 2.25 g | FC1=CC=C(C(=O)C=2C=NC=CC2C(=O)OC)C=C1 | C14H10FNO3
reactant | NaH | 10.21 mmol, 0.25 g | [H-].[Na+]
reactant | imidazole | 8.68 mmol, 0.59 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 26 mL | CN(C)C=O | C3H7NO
product | 3-[4-(1H-imidazol-1-yl)benzoyl]-4-carbomethoxypyridine | N1(C=NC=C1)C1=CC=C(C(=O)C=2C=NC=CC2C(=O)OC)C=C1 | C17H13N3O3
